US07220738B2
N-(2-trimethylsilylethoxycarbonyl)-N,N′-dimethylethylenediamine was prepared as follows: to a stirred solution of N,N′-dimethylethylenediamine (616 mg, 5.94 mmol) and aqueous sodium carbonate (2M, 25 mL) at room temperature was added a solution of 2-(trimethylsilyl)ethyl-4-nitrophenyl carbonate (1.31 g, 4.63 mmol) in ethanol (15 mL). The reaction was heated at reflux for 1 h and then stirred at room temperature for 20 hours. The suspension was partially reduced in vacuo and the resulting slurry was added to water (100 mL) and extracted with methylene chloride (3×50 mL). The combined organics were filtered, dried over sodium sulfate and reduced in vacuo. The crude residue was purified via MPLC (silica gel, gradient 5–30%, methanol in methylene chloride) to yield N-(2-trimethylsilylethoxycarbonyl)-N,N′-dimethylethylenediamine as a light yellow solid (380 mg, 1.64 mmol, 35% yield); 1H NMR (CDCl3, 300 MHz): δ 4.14 (m, 2H), 3.34 (m, 2H), 2.88 (s, 3H), 2.71 (m, 2H), 2.42 (s, 3H), 0.97 (m, 2H), 0.01 (s, 9H); ESI (+) MS: 233 (M+H+); TLC: Rf=0.06 (4:1, methylene chloride:methanol, Whatman MK6F, 60 angstrom).

reactant | N,N′-dimethylethylenediamine | 5.94 mmol, 616 mg | CNCCNC | C4H12N2
reactant | sodium carbonate | 2M, 25 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-(trimethylsilyl)ethyl-4-nitrophenyl carbonate | 4.63 mmol, 1.31 g | C(OC1=C(C=C(C=C1)[N+](=O)[O-])CC[Si](C)(C)C)([O-])=O
reactant | water | 100 mL | O | H2O
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | N-(2-trimethylsilylethoxycarbonyl)-N,N′-dimethylethylenediamine | 1.64 mmol, 380 mg, 35% yield | C[Si](CCOC(=O)N(CCNC)C)(C)C | C10H24N2O2Si
